US07176194B2
b) N-(4-{1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]4-oxoazetidin-2-yl}-benzyl)-2-(4-{[methyl-(2,3,4,5,6-pentahydroxyhexyl)-amino]-methyl}-phenyl)-acetamide (48)
The synthesis was carried out analogously to Example XVe), starting with 70 mg of 4-(4-aminomethylphenyl)-1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-azetidin-2-one and 114 mg of (4-{[methyl-(2,3,4,5,6-pentahydroxyhexyl)-amino]-methyl}-phenyl)-acetic acid. This gave the product of molecular weight 747.84 (C41H47F2N3O8+); MS (ESI) 748.35 (M+H+).

reactant | 4-(4-aminomethylphenyl)-1-(4-fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]-azetidin-2-one | 70 mg | NCC1=CC=C(C=C1)C1C(C(N1C1=CC=C(C=C1)F)=O)CCC(O)C1=CC=C(C=C1)F | C25H24F2N2O2
reactant | (4-{[methyl-(2,3,4,5,6-pentahydroxyhexyl)-amino]-methyl}-phenyl)-acetic acid | 114 mg | CN(CC(C(C(C(CO)O)O)O)O)CC1=CC=C(C=C1)CC(=O)O | C16H25NO7
product | N-(4-{1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-hydroxypropyl]4-oxoazetidin-2-yl}-benzyl)-2-(4-{[methyl-(2,3,4,5,6-pentahydroxyhexyl)-amino]-methyl}-phenyl)-acetamide | FC1=CC=C(C=C1)N1C(C(C1=O)CCC(O)C1=CC=C(C=C1)F)C1=CC=C(CNC(CC2=CC=C(C=C2)CN(CC(C(C(C(CO)O)O)O)O)C)=O)C=C1 | C41H47F2N3O8
